US07939531B2
A solution of [2-[5-(4-hydroxy-piperidine-1-carbonyl)-thiophen-2-yl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-(1-methyl-cyclohexyl)-methanone (0.032 g, 0.056 mmol) in 1 mL of dichloromethane and 1 mL of trifluoroacetic acid was stirred for 2 h, then concentrated. The residue was dissolved in 2 mL of ethanol and treated with sodium acetate trihydrate (0.076 g, 0.56 mmol). The mixture was stirred overnight, then concentrated to a residue. Column chromatography (0->50% EtOAc/hexanes) afforded 0.019 g (76%) of {2-[5-(4-hydroxy-piperidine-1-carbonyl)-thiophen-2-yl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-(1-methyl-cyclohexyl)-methanone as an off-white solid.

reactant | [2-[5-(4-hydroxy-piperidine-1-carbonyl)-thiophen-2-yl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-(1-methyl-cyclohexyl)-methanone | 0.056 mmol, 0.032 g | OC1CCN(CC1)C(=O)C1=CC=C(S1)C=1N=C2C(=NC1)N(C=C2C(=O)C2(CCCCC2)C)COCC[Si](C)(C)C | C30H42N4O4SSi
reactant | sodium acetate trihydrate | 0.56 mmol, 0.076 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | {2-[5-(4-hydroxy-piperidine-1-carbonyl)-thiophen-2-yl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-(1-methyl-cyclohexyl)-methanone | 0.019 g, 76% | OC1CCN(CC1)C(=O)C1=CC=C(S1)C=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C24H28N4O3S
